US04017624
A mixture of 1.9 g of N-(3-chloropropyl)-p-fluoroaniline, 1.9 g of 1-(o-methoxyphenyl)piperazine, 0.5 g of sodium carbonate and 50 ml of dimethylformamide was heated at 80°-90° C for 15 hours. After cooling, the reaction mixture was poured into water and extracted with benzene. The extract was washed with water, dried over sodium sulfate and evaporated under reduced pressure to give 1-{3-(p-fluoroanilino)propyl}-4-(o-methoxyphenyl)piperazine, m.p. 79°-80° C; recrystallized from cyclohexane, m.p. 84°-84.5° C.

reactant | N-(3-chloropropyl)-p-fluoroaniline | 1.9 g | ClCCCNC1=CC=C(C=C1)F | C9H11ClFN
reactant | 1-(o-methoxyphenyl)piperazine | 1.9 g | COC1=C(C=CC=C1)N1CCNCC1 | C11H16N2O
reactant | sodium carbonate | 0.5 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 1-{3-(p-fluoroanilino)propyl}-4-(o-methoxyphenyl)piperazine | FC1=CC=C(NCCCN2CCN(CC2)C2=C(C=CC=C2)OC)C=C1 | C20H26FN3O
